*$
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3010M
** Triac Driver Output Optocoupler, 6-Pin DIP 250V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3010M 1 2 3 4
.PARAM Itrig=8m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=600
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=600           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3011M
** Triac Driver Output Optocoupler, 6-Pin DIP 250V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3011M 1 2 3 4
.PARAM Itrig=5m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=600
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=600           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3012M
** Triac Driver Output Optocoupler, 6-Pin DIP 250V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3012M 1 2 3 4
.PARAM Itrig=3m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=600
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=600           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3020M
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3020M 1 2 3 4
.PARAM Itrig=15m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
*

********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3021M
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3021M 1 2 3 4
.PARAM Itrig=8m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3022M
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3022M 1 2 3 4
.PARAM Itrig=5m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3023M
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT MOC3023M 1 2 3 4
.PARAM Itrig=3m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: FODM3012
** Triac Driver Output Optocoupler, 6-Pin DIP 250V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT FODM3012 1 2 3 4
.PARAM Itrig=3m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=600
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=600           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: FODM3022
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT FODM3022 1 2 3 4
.PARAM Itrig=5m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
*
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: FODM3023
** Triac Driver Output Optocoupler, 6-Pin DIP 400V Random Phase
** Spice Format: PSpice
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.SUBCKT FODM3023 1 2 3 4
.PARAM Itrig=3m
.PARAM RH1=20e3
.PARAM RH2=20e3
.PARAM RH3=46.7e3
Q2 vb1 vb1p vd1 0 PNP1
Q1 vb1p vb1 4 0 NPN1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl1 4 1
C1 ctrl1 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl1 4 value={-500*I(Vsense)*3.0e-3/Itrig}
*B1 ctrl1 4 I={-500*I(D1)*3e-3/Itrig}
R6 vd2 vb2 {RH2}
D3 vd2 3 D11
Q3 vb2 vb2p 4 0 PNP1
Q4 vb2p vb2 vd2 0 NPN1
E1 vd2 N001 ctrl1 4 -1
R5 N001 vb2 {RH1} 
R7 vb2p 4 {RH3}
D2 3 vd1 D11
R34 3 4 10000e6
C34 3 4 30e-12
.MODEL PNP1 PNP(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL NPN1 NPN(is=1e-15 bf=10 cjc=5e-12 cje=20e-12 tf=0.1e-6 ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=750
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=750           IBV=0.0001
.ENDS
**------------------------------------------------------------------
** Creation: Jul.-25-2022  Rev: 1.1
** onsemi
*$
